US06855710B2
(Z)-3-[1-(2-carboxy-phenylamino)-1-phenyl-methylidene]-2-indolinone
176 mg (0.48 mmol) of (Z)-3-[1-(2-methoxycarbonyl-phenylamino)-1-phenyl-methylidene]-2-indolinone are dissolved in 15 ml of methanol and 2 ml of dioxane and after the addition of 1.4 ml of 1N sodium hydroxide solution stirred for two hours at 80° C. Then the mixture is neutralised 1.4 ml of 1N hydrochloric acid while being cooled, the product precipitated is suction filtered, washed with water and dried.

reactant | (Z)-3-[1-(2-methoxycarbonyl-phenylamino)-1-phenyl-methylidene]-2-indolinone | 0.48 mmol, 176 mg | COC(=O)C1=C(C=CC=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C23H18N2O3
reactant | dioxane | 2 ml | O1CCOCC1 | C4H8O2
reactant | sodium hydroxide | 1N, 1.4 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 1.4 ml | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
product | (Z)-3-[1-(2-carboxy-phenylamino)-1-phenyl-methylidene]-2-indolinone | C(=O)(O)C1=C(C=CC=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C22H16N2O3
